US04582851
1-[[2-(Dimethylamino)ethyl]amino]-6-methoxy-4-nitro-9H-thioxanthen-9-one was prepared similarly from 0.99 g of 1-chloro-6-methoxy-4-nitrothioxanthone and 0.67 g of N,N-diethylethylenediamine affording 0.98 g, mp 144°-145°.

reactant | 1-chloro-6-methoxy-4-nitrothioxanthone | 0.99 g | ClC1=CC=C(C=2SC3=CC(=CC=C3C(C12)=O)OC)[N+](=O)[O-] | C14H8ClNO4S
reactant | N,N-diethylethylenediamine | 0.67 g | C(C)N(CCN)CC | C6H16N2
product | 1-[[2-(Dimethylamino)ethyl]amino]-6-methoxy-4-nitro-9H-thioxanthen-9-one | CN(CCNC1=CC=C(C=2SC3=CC(=CC=C3C(C12)=O)OC)[N+](=O)[O-])C | C18H19N3O4S
